US08633173B2
N(8)-Pyridin-3-ylmethyl-N(2)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-pyridin-3-ylmethyl-amine (75.0 mg, 0.289 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (67.0 mg, 0.325 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (33.0 mg, 0.0604 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.031 g, 25%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.67 (s, 1H), 8.56 (d, J=4.2 Hz, 1H), 7.83 (d, J=6.6 Hz, 1H), 7.73 (d, J=8.0 Hz, 1H), 7.47 (d, J=8.8 Hz, 2H), 7.31-7.25 (m, 1H), 6.92 (d, J=8.8 Hz, 2H), 6.66 (t, J=7.1 Hz, 1H), 6.56 (s, 1H), 6.31 (d, J=7.6 Hz, 1H), 5.18 (t, J=5.4 Hz, 1H), 4.51 (d, J=5.6 Hz, 2H), 4.10 (t, J=6.0 Hz, 2H), 2.89 (t, J=5.9 Hz, 2H), 2.66-2.59 (m, 4H), 1.85-1.77 (m, 4H). MS=430 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-pyridin-3-ylmethyl-amine | 0.289 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C=NC=CC2)=N1 | C12H10ClN5
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.325 mmol, 67.0 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0604 mmol, 33.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-Pyridin-3-ylmethyl-N(2)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | N1=CC(=CC=C1)CNC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C24H27N7O
